* /Users/mac/Desktop/ITU/coursework/6Tcell_working.asc
M3 Q WL BL 0 NMOS l=65n w=130n
V1 VDD 0 1.0
M1 Q QB VDD N006 PMOS l=65n w=200n
M2 0 QB Q N007 NMOS l=65n w=180n
M5 QB Q 0 N008 NMOS l=65n w=180n
M6 BLB WL QB 0 NMOS l=65n w=130n
M4 VDD Q QB N005 PMOS l=65n w=200n
C1 BL 0 20f
C2 0 BLB 20f
C3 0 WL 1f
V2 DIN 0 PULSE(0 1 40n 0 0 40n)
V3 DINB 0 PULSE(1 0 40n 0 0 40n)
V4 WL 0 PULSE(0 1 11n 0 0 6n 20n 5)
V§WR WR 0 PULSE(0 1 9n 0 0 8n 40n 3)
M10 VDD CLK BLB N002 PMOS l=65n w=500n
M9 BL CLK VDD N003 PMOS l=65n w=500n
M11 BLB CLK BL VDD PMOS l=65n w=500n
V6 CLK 0 PULSE(0 1 8n 0 0 10n 20n 5)
M7 DIN WR BL 0 NMOS l=65n w=500n
M8 BLB WR DINB 0 NMOS l=65n w=500n
M12 BL RDB BLout VDD PMOS l=65n w=500n
M13 BLBout RDB BLB VDD PMOS l=65n w=500n
V5 RDB 0 PULSE(1 0 29n 0 0 8n 40n)
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/mac/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 0 100n 0 10p
.backanno
.end
